US07153873B2
1-acetyl-3-cyclohexylamino-5-methyl-2-pyridin-2-yl-imidazo[1,2-a]pyridin-1-ium chloride
Example 17 was carried out in accordance with the general directions for synthesis in process step a) from 1.0 ml (0.1 mmol) 2-amino-6-methylpyridine (0.1 M, DCM), 0.575 ml (0.115 mmol) cyclohexylisonitrile solution (0.2 M, DCM), 0.500 ml (0.15 mmol) pyridine-2-carbaldehyde solution (0.3 M, DCM) and 10 μl perchloric acid (w=20%) and in process step c) and d) by reacting the resultant reaction product with 0.4 mmol acetylchloride.

reactant | 2-amino-6-methylpyridine | 0.1 mmol, 0.1 M, 1.0 ml | NC1=NC(=CC=C1)C | C6H8N2
reactant | cyclohexylisonitrile | 0.115 mmol, 0.2 M, 0.575 ml | C1(CCCCC1)[N+]#[C-] | C7H11N
reactant | pyridine-2-carbaldehyde | 0.15 mmol, 0.3 M, 0.500 ml | N1=C(C=CC=C1)C=O | C6H5NO
reactant | acetylchloride | 0.4 mmol | C(C)(=O)Cl | C2H3ClO
solvent | perchloric acid | 10 μl | Cl(=O)(=O)(=O)O | ClHO4
product | 1-acetyl-3-cyclohexylamino-5-methyl-2-pyridin-2-yl-imidazo[1,2-a]pyridin-1-ium chloride | [Cl-].C(C)(=O)[N+]=1C(=C(N2C1C=CC=C2C)NC2CCCCC2)C2=NC=CC=C2 | InChI=1S/C21H25N4O.ClH/c1-15-9-8-13-19-24(15)21(23-17-10-4-3-5-11-17)20(25(19)16(2)26)18-12-6-7-14-22-18;/h6-9,12-14,17,23H,3-5,10-11H2,1-2H3;1H/q+1;/p-1
